US07790756B2
In DMA (10 mL) was placed 3-amino-4-fluorophenol (500 mg, 3.93 mmol), potassium t-butoxide (441 mg, 3.93 mmol) and 4-chloro-2-(methylthio)pyrimidine (632 mg, 3.93 mmol). The mixture was warmed to 50° C. and stirred overnight. The mixture was cooled to RT and diluted with water (30 mL), extracted with ethyl acetate (2×25 mL) and the combined organic phases washed with brine, dried (Na2SO4) and concentrated to yield a dark oil. The oil was purified by column chromatography to yield 2-fluoro-5-(2-(methylthio)pyrimidin-4-yloxy)benzenamine (841 mg, 85% yield) as an oil which was used without further purification. MS (ESI) m/z: 252.0 (M+H+).

reactant | 3-amino-4-fluorophenol | 3.93 mmol, 500 mg | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | potassium t-butoxide | 3.93 mmol, 441 mg | CC(C)([O-])C.[K+]
reactant | 4-chloro-2-(methylthio)pyrimidine | 3.93 mmol, 632 mg | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 30 mL | O | H2O
product | 2-fluoro-5-(2-(methylthio)pyrimidin-4-yloxy)benzenamine | 841 mg, 85% yield | FC1=C(C=C(C=C1)OC1=NC(=NC=C1)SC)N | C11H10FN3OS
